US06939883B2
Step 2B 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-5-formyl-4-pyridone:
Diisobutylaluminum hydride (3.75 mmol, 3.75 ml of a 1.0M solution in hexanes ) was added dropwise to a stirring solution of 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-3-bromo-5-ethoxycarbonyl-4-pyridone (1.12 g, 2.5 mmol) in THF/DCM (30 mL/ 12 mL), at −78° C. under N2. A suspension was formed at the end of the addition. After 1 hour, an additional aliquot of DIBAL-H (2.5 mmol, 2.5 mL of a 1.0 M solution in hexanes) was added. The reaction was stirred for 1 hour at −78° C. MeOH (50 mL) was carefully added to quench any unreacted DIBAL-H. The solution was concentrated, then partitioned between EtOAc and 1 M HCl. The organic layer was concentrated and purified using flash silica gel chromatography (100% hexanes to EtOAc/hexanes 3/2). The fourth spot which eluted was evaporated to give product as a cream colored solid. 1H NMR (CDCl3, 300 MHz) δ 10.55 (s, 1H), 6.80-7.75 (m, 6H), 5.36 (s, 2H), 3.90 (s, 3H), 2.79 (s, 3H), 2.27 (s, 3H); LCMS=402 (MH+).

reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-3-bromo-5-ethoxycarbonyl-4-pyridone | 2.5 mmol, 1.12 g | FC1=C(CN2C(C(C(C(=C2C)C(=O)OCC)=O)(Br)C2=C(C(=CC=C2)OC)F)C)C(=CC=C1)F | C24H23BrF3NO4
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | MeOH | 50 mL | CO | CH4O
solvent | THF DCM | 30 mL | C1CCOC1.C(Cl)Cl
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-5-formyl-4-pyridone | FC1=C(CN2C(=C(C(C(=C2C)C=O)=O)C2=C(C(=CC=C2)OC)F)C)C(=CC=C1)F | C22H18F3NO3
